US08445499B2
Step 2: 1-(2-chloro-6-methylpyrimidin-4-yl)-1′-(5-methylpyrazin-2-yl)-4,4′-bipiperidine
The 1-(5-methylpyrazin-2-yl)-4,4′-bipiperidine (720 mg, 2.8 mmol) and 2,4-dichloro-6-methyl-pyrimidine (502 mg, 3.1 mmol) were dissolved in NMP (30 mL), and the solution cooled to −20° C. The 1,8-diazabicyclo[5.4.0]-undec-7-ene (4.2 mL, 28 mmol) was added drop-wise and the solution stirred for 10 minutes. The mixture was diluted with ethyl acetate (50 mL), washed with brine (30 mL×2), dried over magnesium sulfate, filtered and concentrated in vac. The residue was purified by chromatography on silica gel with 30% acetone: hexanes to yield the title compound.

reactant | 1-(5-methylpyrazin-2-yl)-4,4′-bipiperidine | 2.8 mmol, 720 mg | CC=1N=CC(=NC1)N1CCC(CC1)C1CCNCC1 | C15H24N4
reactant | 2,4-dichloro-6-methyl-pyrimidine | 3.1 mmol, 502 mg | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | 1,8-diazabicyclo[5.4.0]-undec-7-ene | 28 mmol, 4.2 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-chloro-6-methylpyrimidin-4-yl)-1′-(5-methylpyrazin-2-yl)-4,4′-bipiperidine | ClC1=NC(=CC(=N1)N1CCC(CC1)C1CCN(CC1)C1=NC=C(N=C1)C)C | C20H27ClN6
